US07465806B2
55 mg (0.16 mmol) of 3-[5-(1-isopropyl-piperidin-4-ylcarbamoyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid methyl ester were dissolved in DMF (5 mL). Subsequently 103 mg (2 equiv.) of Cs2CO3 and 65.8 mg (1.5 equiv.) of 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole were added and the resulting mixture was stirred for 4 h at 800 C. Because of low conversion 206 mg (4 equiv.) of Cs2CO3 were added stirring was continued for 7 h at 80° C. The reaction mixture was acidified by the addition of acetic acid and concentrated. The residue was purified by preparative HPLC(CH3CN/H2O gradient+0.05% formic acid) to give 3-[1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(1-isopropyl-piperidin-4-ylcarbamoyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid methyl ester (34 mg) as a colorless amorphous material. MS (ESI+): m/e=548 [M+H]+, chloro pattern.

reactant | 3-[5-(1-isopropyl-piperidin-4-ylcarbamoyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid methyl ester | 0.16 mmol, 55 mg | COC(CCC1=C(NC(=C1C)C(NC1CCN(CC1)C(C)C)=O)C)=O | C19H31N3O3
reactant | Cs2CO3 | 103 mg, 2 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 65.8 mg, 1.5 equiv. | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | Cs2CO3 | 206 mg, 4 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(1-isopropyl-piperidin-4-ylcarbamoyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid methyl ester | 34 mg | COC(CCC1=C(N(C(=C1C)C(NC1CCN(CC1)C(C)C)=O)CC1=NOC(=C1)C=1SC(=CC1)Cl)C)=O | C27H35ClN4O4S
